US04435419
A mixture of 4.19 g. of 1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride and 20 ml. of water is made basic with sodium hydroxide. This mixture is extracted with ether and the ether is evaporated to give an oil. This oil is combined with 40 ml. of 97% formic acid and 35 ml. of 37% formaldehyde and the solution is heated on a steam bath for 2 hours. The solution is cooled, made basic with sodium hydroxide and extracted with ether. The extract is dried over magnesium sulfate, filtered, and the filtrate is saturated with hydrogen chloride. The precipitated crystals are collected and recrystallized from isopropyl alcohol to give 3-methyl-1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride as colorless crystals, m.p. 197°-198° C.

reactant | 1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.C1(=CC=C(C=C1)C12CNCC2C1)C
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 3-methyl-1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.CN1CC2(CC2C1)C1=CC=C(C=C1)C | InChI=1S/C13H17N.ClH/c1-10-3-5-11(6-4-10)13-7-12(13)8-14(2)9-13;/h3-6,12H,7-9H2,1-2H3;1H
